US06743940B2
Preparation of Propargyl-n-tetradecylamine Reaction Scheme
5 g (47 mmol) of anhydrous sodium carbonate are added to a solution of 10.0 g (47 mmol) of n-tetradecylamine in 100 ml of absolute acetone, and the suspension is heated to reflux. At that temperature 5.9 g (50 mmol) of propargyl bromide in 50 ml of acetone are then added dropwise and the mixture is subsequently heated at reflux for 2 hours. After aqueous working-up, the product is obtained in the form of a brown oil having a purity of >90%.

reactant | sodium carbonate | 47 mmol, 5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | n-tetradecylamine | 47 mmol, 10.0 g | C(CCCCCCCCCCCCC)N | C14H31N
reactant | propargyl bromide | 50 mmol, 5.9 g | C(C#C)Br | C3H3Br
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | Propargyl-n-tetradecylamine | C(C#C)NCCCCCCCCCCCCCC | C17H33N
